US09084794B2
a) 1-bromo-1-(4-bromophenyl)propan-2-one
A solution of 1-(4-bromophenyl)propan-2-one (1.173 mmol) in carbon tetrachloride (2.5 mL) was degassed with a stream of nitrogen for five minutes, at which point the solution was treated with N-bromosuccinimide (1.291 mmol) and azobisisobutyronitrile (0.059 mmol). The reaction vessel was purged with nitrogen and sealed, and the mixture was heated overnight at 80° C. with stirring. The resulting orange solution was concentrated to dryness in vacuo. Purification of the crude material by silica gel chromatography (0-35% ethyl acetate/hexanes) afforded the title compound (94 mg, 19%). 1H NMR (400 MHz, DMSO-d6) d ppm 2.27 (s, 3 H) 6.12 (s, 1 H) 7.39 (m, J=8.59 Hz, 2 H) 7.62 (d, J=8.59 Hz, 2 H).

reactant | 1-(4-bromophenyl)propan-2-one | 1.173 mmol | BrC1=CC=C(C=C1)CC(C)=O | C9H9BrO
reactant | N-bromosuccinimide | 1.291 mmol | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | azobisisobutyronitrile | 0.059 mmol | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
solvent | carbon tetrachloride | 2.5 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 1-bromo-1-(4-bromophenyl)propan-2-one | 94 mg, 19% | BrC(C(C)=O)C1=CC=C(C=C1)Br | C9H8Br2O
